US07863332B2
0.472 mL (2.88 mmol, 1.2 eq) of triflic anhydride are added to a solution at 0° C. of 500 mg (2.40 mmol, 1 eq) of methyl (E)-3-(4-hydroxy-3-methoxyphenyl)acrylate in 10 mL of dichloromethane in the presence of 1 ml of triethylamine. The reaction mixture is stirred for 1 hour at 0° C. The reaction medium is hydrolyzed in sodium hydrogen carbonate solution and then extracted with ethyl acetate. The organic phases are washed with saturated sodium chloride solution and dried over sodium sulfate. The solvent is evaporated off and the methyl (E)-3-(3-methoxy-4-trifluoromethoxyphenyl)acrylate obtained in oil form is used in the next step without further purification.

reactant | triflic anhydride | 2.88 mmol, 0.472 mL, 1.2 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | methyl (E)-3-(4-hydroxy-3-methoxyphenyl)acrylate | 2.40 mmol, 500 mg, 1 eq | OC1=C(C=C(C=C1)/C=C/C(=O)OC)OC | C11H12O4
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | methyl (E)-3-(3-methoxy-4-trifluoromethoxyphenyl)acrylate | COC=1C=C(C=CC1OC(F)(F)F)/C=C/C(=O)OC | C12H11F3O4
